Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
adhesive tape
 
Attending: ___.
 
Chief Complaint:
shortness of breath and cough
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ ___ PMH asthma and tobacco use, h/o Cdiff, 
hypertension, hypothyroidism, and very significant psychiatric 
comorbidities including depression with chronic anger, 
borderline PD, mood disorder, eating disorder, anxiety, and 
numerous psychiatric admissions with history of self injurious 
behaviors and suicide attempts/assaultive behaviors presenting 
with worsening cough and SOB.  Patient initially was seen by PCP 
on ___ and was diagnosed with RML PNA, and started on 
Augmentin.  However, her symptoms have been worsening along 
fevers and development of diarrhea started today with more than 
4 BM's.  

Denied headache, photo/phonophobia, neck rigidity, n/v, chest 
pain, palpitations, dizziness, orthopnea or orthostasis, 
melena/hematochezia, dysuria/hematuria.
 
Past Medical History:
# asthma
# tobacco use
# h/o Cdiff
# hypertension
# hypothyroidism
# hemorrhoids
# herpes
# eczema
# very significant psychiatric comorbidities including 
   -depression with chronic anger
   -borderline PD
   -mood disorder
   -eating disorder
   -anxiety
   -tardive dyskinesia
   -numerous psychiatric admissions with history of self 
injurious behaviors and suicide attempts/assaultive behaviors

 
Social History:
___
Family History:
- father (pt does not have a relationship with him) with 
alcoholism. 
- Sister with bipolar. 
- Twin brother with "mental issues" (has spent much of his life 
incarcerated, currently released). 
- Maternal grandmother with schizophrenia
- No family h/o suicides
 
Physical Exam:
ADMISSION EXAM
===================
GEN: NAD, alert, pleasant
HEENT: AT/NC, anicteric sclera, OP clear, moist MMM, no JVD/LAD
CV: RRR w/o murmurs
RESP: LCTA on left with coarse BS and rhonchi on right
GI: s, ND, NTTP 
GU: no foley in place
INTEGUMENT: no rashes
NEURO: grossly intact without focal deficits
PSYCH: normal affect and mentation

DISCHARGE EXAM
==================
VITALS: 98.2, 109/75, 77, 18, 95 RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, no conjunctival injection, pupils equally round
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear bilaterally with good air movement.  Breathing 
is non-labored
GI: Abdomen soft, non-tender in all quadrants, non-distended.  
No rebound or guarding.
EXT: Warm and well perfused. No ___ edema.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs
PSYCH: pleasant, appropriate mood and affect
 
Pertinent Results:
ADMISSION LABS:
=================
___ 10:10PM BLOOD WBC-11.4* RBC-4.59 Hgb-11.8 Hct-36.8 
MCV-80* MCH-25.7* MCHC-32.1 RDW-15.9* RDWSD-45.9 Plt ___
___ 10:10PM BLOOD Neuts-74.4* Lymphs-15.7* Monos-6.8 
Eos-2.3 Baso-0.3 Im ___ AbsNeut-8.47*# AbsLymp-1.79 
AbsMono-0.78 AbsEos-0.26 AbsBaso-0.03
___ 10:10PM BLOOD Glucose-147* UreaN-11 Creat-0.7 Na-140 
K-3.3 Cl-98 HCO3-30 AnGap-12
___ 05:50AM BLOOD ALT-29 AST-28 AlkPhos-108* TotBili-0.3
___ 05:50AM BLOOD Albumin-3.6 Calcium-9.1 Phos-3.6 Mg-2.3
___ 10:10PM BLOOD Lactate-1.2

DISCHARGE LABS:
=================
___ 06:40AM BLOOD WBC-8.5 RBC-4.76 Hgb-12.5 Hct-40.0 MCV-84 
MCH-26.3 MCHC-31.3* RDW-16.3* RDWSD-49.3* Plt ___
___ 06:40AM BLOOD Glucose-78 UreaN-13 Creat-0.7 Na-147 
K-4.4 Cl-99 HCO3-33* AnGap-15
___ 06:40AM BLOOD Calcium-9.3 Phos-2.6* Mg-2.2

MICROBIOLOGY:
=================
___ 10:09 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
                            **FINAL REPORT ___
   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___. ___ AT 14:40 
___. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C difficile by the Cepheid 
nucleic
         amplification assay.  

STUDIES:
=================
___ CXR
FINDINGS: 
PA and lateral views of the chest provided.  Airspace 
consolidation is
increased in the lower lungs, consistent with worsening 
pneumonia.  No large
effusion or pneumothorax.  Cardiomediastinal silhouette appears 
normal.  Bony structures are intact.

IMPRESSION: 
Worsening pneumonia, now involving both right and left lung 
base.
 
Brief Hospital Course:
___ yo F smoker with asthma, h/o cdiff, and mood disorder who was 
admitted with community acquired PNA failing outpatient oral 
antibiotics and found to have C. diff infection.

# Community acquired PNA
Did not improve with Augmentin as an outpatient. Started 
CTX/azithromycin on admission. Flu negative. Legionella 
negative. Transitioned to levofloxacin for CAP (QTc normal on 
___ and course completed on day of discharge.

# Recurrent C. diff
# Diarrhea
- Started PO vancomycin, will plan for course to extend 14 days 
past completion of antibiotics. Rx was filled and delivered to 
the bedside before discharge.
- ___ need outpatient GI referral given multiple occurrences of 
C. diff

# HTN
- continue home metoprolol
- held HCTZ given relative hypotension

Otherwise no changes were made to her other medications. She 
requested an Rx for nebulizer and albuterol which was provided.

TRANSITIONAL ISSUES:
[ ] F/U BP to restart HCTZ if needed
[ ] Consider GI referral for multiple episodes of C. diff
[ ] Careful medication reconciliation with patient - multiple 
old medications are listed in OMR that do not appear to have 
been filled recently and patient is unaware of what she takes 
(she has both blister pack and bottles of pills)

**The patient was seen and examined today and is stable for 
discharge. Greater than 30 minutes were spent in discharge 
planning and coordination.**
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbamazepine (Extended-Release) 100 mg PO BID 
2. Gabapentin 600 mg PO BID 
3. RisperiDONE 0.5 mg PO DAILY 
4. LORazepam 0.5 mg PO BID 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. Fluticasone Propionate NASAL 1 SPRY NU BID 
7. Baclofen 10 mg PO TID:PRN Muscle Spasms 
8. Ferrous Sulfate 325 mg PO BID 
9. Montelukast 10 mg PO DAILY 
10. Lidocaine Viscous 2% 15 mL PO TID:PRN throat pain 
11. mineral oil-hydrophil petrolat small dab topical BID:PRN 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. OxyCODONE (Immediate Release) ___ mg PO Q4-6H as needed for 
pain 
14. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
15. melatonin 3 mg oral QHS 
16. Pantoprazole 20 mg PO Q12H 
17. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral BID 
18. Aspirin 325 mg PO DAILY 
19. Cetirizine 10 mg PO DAILY 
20. Loratadine 10 mg PO DAILY 
21. DULoxetine 40 mg PO DAILY 
22. albuterol sulfate 90 mcg/actuation inhalation ___ puffs q6h 
as needed for wheezing 
23. Hydrochlorothiazide 25 mg PO DAILY 
24. cod liver oil 1 capsule oral DAILY 

 
Discharge Medications:
1.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheeze 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 NEB INH every four 
(4) hours Disp #*30 Vial Refills:*0 
2.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0 
3.  vancomycin 125 mg oral QID 
RX *vancomycin 125 mg 1 capsule(s) by mouth four times a day 
Disp #*56 Capsule Refills:*0 
4.  Aspirin 325 mg PO DAILY  
5.  Baclofen 10 mg PO TID:PRN Muscle Spasms  
6.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral BID  
7.  Carbamazepine (Extended-Release) 100 mg PO BID  
8.  Cetirizine 10 mg PO DAILY  
9.  cod liver oil 1 capsule oral DAILY  
10.  DULoxetine 40 mg PO DAILY  
11.  Ferrous Sulfate 325 mg PO BID  
12.  Fluticasone Propionate NASAL 1 SPRY NU BID  
13.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
14.  Gabapentin 600 mg PO BID  
15.  Lidocaine Viscous 2% 15 mL PO TID:PRN throat pain  
16.  Loratadine 10 mg PO DAILY  
17.  LORazepam 0.5 mg PO BID  
18.  melatonin 3 mg oral QHS  
19.  Metoprolol Succinate XL 50 mg PO DAILY  
20.  mineral oil-hydrophil petrolat 1 unit topical BID:PRN skin  

21.  Montelukast 10 mg PO DAILY  
22.  Multivitamins W/minerals 1 TAB PO DAILY  
23.  OxyCODONE (Immediate Release) ___ mg PO Q4-6H as needed 
for pain  
24.  Pantoprazole 20 mg PO Q12H  
25.  RisperiDONE 0.5 mg PO DAILY  
26. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until you see your 
primary care doctor and have your blood pressure checked.
27.Medical Equipment
Please provide a nebulizer for albuterol.
ICD-___: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
community acquired pneumonia
C. diff colitis and diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with pneumonia and found to 
have a diarrheal infection (called C. diff). We treated you with 
antibiotics for your pneumonia, which finished before you left 
the hospital. We also started you on another antibiotic (called 
VANCOMYCIN) for your C. diff diarrheal infection. You should 
take this antibiotic four times per day for 2 weeks.

Your other medications are detailed in your discharge medication 
list. You should review this carefully and take it with you to 
any follow up appointments.

Your follow up appointments are listed below.

It was a pleasure taking care of you.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___